** Example of simple 5-transistor OTA noise analysis testbench
**.subckt ota-5t_tb-noise
*----------------------------------------------------------*
* Testbench
*----------------------------------------------------------*
Vdd v_dd GND VDD
xota v_dd v_out v_cm net1 net2 v_ena v_ss ota-5t
Vss v_ss GND 0
C1 v_out v_ss CL m=1
Vcm v_cm v_ss dc VCM
I0 v_dd net2 IBIAS
Venable v_ena v_ss VDD
.save v(v_cm)
.save v(v_out)
.save v(v_ena)
Vin v_cm net1 dc 0 ac 1

*----------------------------------------------------------*
* Technology Library
*----------------------------------------------------------*
 .lib cornerMOSlv.lib mos_tt



.temp 27
*----------------------------------------------------------*
* Control Block
*----------------------------------------------------------*
.control
  echo ==================================
  echo start of Control
  echo ==================================
  option sparse
  set filetype=ascii
  save all

  echo
  echo (C) start of Noise sim
  echo ----------------------------------
  noise v(v_out) Vin lin 1000 1MEG 1000MEG 1
  print inoise_total
  print onoise_total

  echo
  echo SAVING SIMULATION RESULTS IN THE RAW FILE  
  echo NOISE 1 saving the Integrated Noise
  setplot noise1
  * plot inoise_spectrum linplot
  * plot onoise_spectrum linplot
  remzerovec
  write

  echo
  echo NOISE 2 saving the Noise Spectral Density Curves
  setplot noise2
  remzerovec
  write 

  echo ==================================
  echo END of Control
  echo ==================================
  quit 
  * ^ This is needed for spicelib (uncommented)

.endc


*----------------------------------------------------------*
* Parameter Definitions
*----------------------------------------------------------*

.param VDD=1.5
.param VCM=0.8
.param CL=50f

.param IBIAS=20u

.param x_dut_nfet_input_w=0.5u
.param x_dut_nfet_input_l=5.0u

.param x_dut_nfet_mirror_w=2.0u
.param x_dut_nfet_mirror_l=5.0u

.param x_dut_pfet_load_w=1.5u
.param x_dut_pfet_load_l=5.0u

.param x_dut_nfet_mirror_ref_w=2.0u
.param x_dut_nfet_mirror_ref_l=5.0u


*----------------------------------------------------------*
* Subcircuit Definition
*----------------------------------------------------------*
* expanding   symbol:  ota-5t.sym # of pins=7
** sym_path: /home/noorizad/code/TCAD/modules/SpiceXplorer/examples/OTA/5t-ota/ihp-sg13g2/xschem/ota-5t.sym
** sch_path: /home/noorizad/code/TCAD/modules/SpiceXplorer/examples/OTA/5t-ota/ihp-sg13g2/xschem/ota-5t.sch
.subckt ota-5t vdd vout vinp vinn ibias_20u d_ena vss
*.ipin ibias_20u
*.iopin vdd
*.iopin vss
*.ipin vinp
*.ipin vinn
*.opin vout
*.ipin d_ena
XM5 tail gate_n vss vss sg13_lv_nmos w=x_dut_nfet_mirror_w l=x_dut_nfet_mirror_l ng=1 m=1
XM4 vout gate_p vdd vdd sg13_lv_pmos w=x_dut_pfet_load_w l=x_dut_pfet_load_l ng=1 m=1
XM1 gate_p vinp tail vss sg13_lv_nmos w=x_dut_nfet_input_w l=x_dut_nfet_input_l ng=1 m=1
XM2 vout vinn tail vss sg13_lv_nmos w=x_dut_nfet_input_w l=x_dut_nfet_input_l ng=1 m=1
XM3 gate_p gate_p vdd vdd sg13_lv_pmos w=x_dut_pfet_load_w l=x_dut_pfet_load_l ng=1 m=1
XM6 ibias_20u gate_n vss vss sg13_lv_nmos w=x_dut_nfet_mirror_ref_l l=x_dut_nfet_mirror_ref_w ng=1 m=1
XM9 gate_n ena_n vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XM11 gate_p ena vdd vdd sg13_lv_pmos w=1.5u l=0.13u ng=1 m=1
XM7 ena ena_n vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XM8 ena ena_n vdd vdd sg13_lv_pmos w=1.5u l=0.13u ng=1 m=1
XM10 ibias_20u ena gate_n vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XM12 ena_n d_ena vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XM13 ena_n d_ena vdd vdd sg13_lv_pmos w=1.5u l=0.13u ng=1 m=1
.ends

.GLOBAL GND
.end
