** sch_path: /home/noorizad/code/TCAD/modules/SpiceXplorer/examples/OTA/cascode/ihp-sg13g2/xschem/ota-improved_tb-linearity.sch
**.subckt ota-improved_tb-linearity
Vdd v_dd GND VDD
xota v_dd v_out v_cm net1 net2 v_ena v_ss ota-improved
Vss v_ss GND 0
C1 v_out v_ss CL m=1
Vcm v_cm v_ss dc V_CM
I0 v_dd net2 5u
Venable v_ena v_ss VDD

* --- CHANGED: Setup for Transient Amplitude Sweep ---
* Initial SIN params: Offset=0, Amp=1m (overwritten by script), Freq=1MHz
Vin v_cm net1 sin(0 1m 1Meg)
* ---------------------------------------------------

.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ

.temp 27

.control
    echo "=== Robust ICMR Calculation ==="
    option sparse
    save all

    * --- PART 1: TAIL CURRENT CHECK (Low Side) ---
    * Polarity doesn't matter for tail current check
    alter @Vin[ac] = 0
    alter @Vin[sin] = [ 0 0 0 ]
    alter @Vin[dc] = 0
    dc Vcm 0 1.5 0.01
    
    meas dc itail_max max v.xota.vmeas1#branch
    let itail_limit = 0.90 * itail_max
    meas dc icmr_min find v(v_cm) when v.xota.vmeas1#branch=itail_limit rise=1

    * --- PART 2: HIGH SIDE CHECK (Auto-Polarity) ---
    * Try Positive Offset first
    alter @Vin[dc] = 2m 
    dc Vcm 0 1.5 0.01
    
    * Check if output went high (approx > 0.7V)
    meas dc vout_test_pos find v(v_out) at=0.8
    
    * Variable to store the correct limit
    let icmr_max = 0
    let high_side_valid = 0

    if vout_test_pos > 0.7
        echo " >> Positive Input forces Output HIGH. Using this sweep."
        let vout_thresh = vout_test_pos * 0.9
        meas dc icmr_max find v(v_cm) when v(v_out)=vout_thresh fall=last
        let high_side_valid = 1
    else
        echo " >> Positive Input kept Output LOW ($&vout_test_pos V). Flipping polarity..."
        
        * Run Negative Offset Sweep
        alter @Vin[dc] = -2m
        dc Vcm 0 1.5 0.01
        
        meas dc vout_test_neg find v(v_out) at=0.8
        
        if vout_test_neg > 0.7
            echo " >> Negative Input forces Output HIGH ($&vout_test_neg V). Calculating..."
            let vout_thresh = vout_test_neg * 0.9
            meas dc icmr_max find v(v_cm) when v(v_out)=vout_thresh fall=last
            let high_side_valid = 1
        else
            echo " >> ERROR: Output stays LOW for both polarities!"
            echo " >> Is the Enable pin set correctly? Is the Load too heavy?"
        end
    end

    * --- PART 3: REPORT ---
    echo
    echo "=========================================="
    echo "       ICMR COMPUTED RESULTS              "
    echo "=========================================="
    echo "ICMR Min (Tail Limit): $&icmr_min V"
    
    if high_side_valid
        echo "ICMR Max (Gain Limit): $&icmr_max V"
        echo "Valid Range:           $&icmr_min V to $&icmr_max V"
    else
        echo "ICMR Max:              FAILED (Output stuck low)"
    end
    echo "=========================================="

.endc

* --- Parameters ---
.param X_DUT_V_BIAS_1 = 0.6
.param X_DUT_V_BIAS_2 = 0.5
.param X_DUT_M5_L = 5u
.param X_DUT_M5_W = 6u
.param X_DUT_M5_NG = 3
.param X_DUT_M6_L = 5u
.param X_DUT_M6_W = 2u
.param X_DUT_M1M2_L = .5u
.param X_DUT_M1M2_W = 1u
.param X_DUT_M1CM2C_L = .5u
.param X_DUT_M1CM2C_W = 1u
.param X_DUT_M3CM4C_L = .5u
.param X_DUT_M3CM4C_W = 3u
.param X_DUT_M3M4_L = .5u
.param X_DUT_M3M4_W = 3u
.param VDD = 1.5
.param CL = 50f
.param V_CM = 0.8

**** end user architecture code
**.ends

* (Original Subcircuit kept below unchanged)
* expanding   symbol:  ota-improved.sym # of pins=7
.subckt ota-improved vdd vout vinp vinn ibias_5u d_ena vss
XM5 net6 gate vss vss sg13_lv_nmos w=X_DUT_M5_W l=X_DUT_M5_L ng=X_DUT_M5_NG m=1
XM4 net2 gate_p vdd vdd sg13_lv_pmos w=X_DUT_M3M4_W l=X_DUT_M3M4_L ng=1 m=1
XM1 net4 vinp tail vss sg13_lv_nmos w=X_DUT_M1M2_W l=X_DUT_M1M2_L ng=1 m=1
XM2 net5 vinn tail vss sg13_lv_nmos w=X_DUT_M1M2_W l=X_DUT_M1M2_L ng=1 m=1
XM3 net3 gate_p vdd vdd sg13_lv_pmos w=X_DUT_M3M4_W l=X_DUT_M3M4_L ng=1 m=1
XM6 net1 gate vss vss sg13_lv_nmos w=X_DUT_M6_W l=X_DUT_M6_L ng=1 m=1
XMpd5 gate ena_n vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd3 ena ena_n vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd4 ena ena_n vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
XMpd6 net1 ena gate vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2c vout dp_casc net5 vss sg13_lv_nmos w=X_DUT_M1CM2C_W l=X_DUT_M1CM2C_L ng=1 m=1
XM1c gate_p dp_casc net4 vss sg13_lv_nmos w=X_DUT_M1CM2C_W l=X_DUT_M1CM2C_L ng=1 m=1
XM4c vout gate_pc net2 vdd sg13_lv_pmos w=X_DUT_M3CM4C_W l=X_DUT_M3CM4C_L ng=1 m=1
XM3c gate_p gate_pc net3 vdd sg13_lv_pmos w=X_DUT_M3CM4C_W l=X_DUT_M3CM4C_L ng=1 m=1
XMpd8 gate_p ena vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
Vmeas1 tail net6 0
.save i(vmeas1)
XMpd1 ena_n d_ena vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd2 ena_n d_ena vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
Vmeas4 ibias_5u net1 0
.save i(vmeas4)
XMpd11 vout ena_n vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XMdecoup1 vss gate vss vss sg13_lv_nmos w=8u l=1u ng=4 m=1
XMdecoup3 vdd gate_pc vdd vdd sg13_lv_pmos w=12u l=0.5u ng=4 m=1
V1 vdd gate_pc X_DUT_V_BIAS_2
V2 dp_casc tail X_DUT_V_BIAS_1
.ends

.GLOBAL GND
.end